US05236952
A solution of 20.0 g of 3-phenylpropyl bromide in 300 ml of ether is treated at -60° while stirring within 15 minutes with a solution of 71.8 ml of tert.butyllithium (1.4 molar) in pentane. After 10 minutes there is added dropwise at this temperature within 15 minutes a solution of 22.14 g of vanillin benzyl ether in 200 ml of ether, whereupon the mixture is stirred for an additional 2 hours. The mixture is poured into 1 l of ice-water and extracted three times with 500 ml of ethyl acetate each time. The organic phase is washed twice with 200 ml of water each time, dried over sodium sulfate and evaporated. The oil obtained is chromatographed on 1 kg of silica gel with methylene chloride. The crystals obtained are recrystallized from ether/pentane. There is obtained 4-(benzyloxy)-3-methoxy-α-(3-phenylpropyl)benzyl alcohol in the form of colorless crystals of m.p. 71°-73°.

reactant | 3-phenylpropyl bromide | 20.0 g | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | tert.butyllithium | 1.4 molar, 71.8 ml | C(C)(C)(C)[Li]
reactant | vanillin benzyl ether | 22.14 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | pentane | CCCCC | C5H12
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4-(benzyloxy)-3-methoxy-α-(3-phenylpropyl)benzyl alcohol | C(C1=CC=CC=C1)OC1=C(C=C(C(CCCC2=CC=CC=C2)O)C=C1)OC | C24H26O3
